US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyethyl)-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.8 g) was dissolved in tetrahydrofuran (16 ml), and butyllithium (1.6M hexane solution, 3.7 ml) was added dropwise thereto at -70° C. under a nitrogen atmosphere, and the mixture was stirred for 10 minutes. After acetaldehyde (0.22 ml) was added dropwise to the reaction mixture, the resulting mixture was stirred for 10 minutes and the temperature of the mixture was raised to 0° C. The mixture was then poured into ice-cold water and the pH of the mixture was adjusted to a value of 6 with an aqueous potassium dihydrogenphosphate solution. After the reaction mixture was extracted with ethyl acetate and the organic layer was washed with a saturated aqueous NaCl solution, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain the title compound (0.90 g, 98%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.8 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | butyllithium | 1.6M, 3.7 ml | C(CCC)[Li]
reactant | acetaldehyde | 0.22 ml | C(C)=O | C2H4O
reactant | potassium dihydrogenphosphate | P(=O)(O)(O)[O-].[K+]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyethyl)-5-phenylisoxazole | 0.90 g, 98% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)O)C1=CC=CC=C1 | C18H24N2O5
